US09403801B2
Step 7) 3-(9-(methyl(5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile
To a suspension of N4,5-dimethyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (93 mg, 0.25 mmol) and 2-cyanoacetic acid (63.8 mg, 0.75 mmol) in a mixture of dichloromethane and N,N-dimethylformamide (8 mL/2 mL) were added O-(7-aza-1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluoro phosphate (51.72 mg, 0.38 mmol) and N,N-diethylethanamine (75.9 mg, 0.75 mmol). The mixture was stirred at rt overnight then concentrated in vacuo and the residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=100/1 to 10/1) to give the title compound as a yellow solid (40 mg, 36.38%).

reactant | N4,5-dimethyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.25 mmol, 93 mg | CN(C1=NC(=NC=C1C)NC=1C=NN(C1)C)C1CCC2(CCNCC2)CC1 | C20H31N7
reactant | 2-cyanoacetic acid | 0.75 mmol, 63.8 mg | C(#N)CC(=O)O | C3H3NO2
reactant | O-(7-aza-1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluoro phosphate | 0.38 mmol, 51.72 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diethylethanamine | 0.75 mmol, 75.9 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 3-(9-(methyl(5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile | 40 mg, 36.38% | CN(C1CCC2(CCN(CC2)C(CC#N)=O)CC1)C1=NC(=NC=C1C)NC=1C=NN(C1)C | C23H32N8O
